US06884821B1
Using 2-naphthalene carboxylic acid and ethyl 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 2-isopropoxy-3-(4-methoxy-3-[(2-naphthylcarbonyl)amino]methylphenyl]propanoic acid was obtained in the same method as in Example 38).

reactant | 2-naphthalene carboxylic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | ethyl 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C21H33NO6
product | 2-isopropoxy-3-(4-methoxy-3-[(2-naphthylcarbonyl)amino]methylphenyl]propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CNC(=O)C1=CC2=CC=CC=C2C=C1 | C25H27NO5
